US06011174
(3) Preparation of 2,2-bis(pivaloyloxymethyl) (4S)-4-[N-(carboxymethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,2-dicarboxylate
926 mg of 2,2-bis(pivaloyloxymethyl) (4S)-4-[N-(tert-butoxycarbonylmethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,2-dicarboxylate was dissolved in 12 ml of formic acid and left to stand at room temperature for 2 hours. Then, formic acid was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1→1/1) to obtain 723 mg (yield: 85%) of the above identified compound as a colorless foam.

reactant | 2,2-bis(pivaloyloxymethyl) (4S)-4-[N-(tert-butoxycarbonylmethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,2-dicarboxylate | 926 mg | C(C)(C)(C)OC(=O)CN(C(=O)[C@H]1OC(OC1)(C(=O)OCOC(C(C)(C)C)=O)C(=O)OCOC(C(C)(C)C)=O)[C@@H]([C@H](CCC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)C | C47H59NO14
solvent | formic acid | 12 ml | C(=O)O | CH2O2
product | 2,2-bis(pivaloyloxymethyl) (4S)-4-[N-(carboxymethyl)-N-{(1R,2R)-1-methyl-2-(4-phenoxyphenyl)-4-phenylbutyl}carbamoyl]-1,3-dioxolane-2,2-dicarboxylate | yield: 85% | C(=O)(O)CN(C(=O)[C@H]1OC(OC1)(C(=O)OCOC(C(C)(C)C)=O)C(=O)OCOC(C(C)(C)C)=O)[C@@H]([C@H](CCC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)C | C43H51NO14
